US08685959B2
To a solution of 6-bromoindazole (3.4 g, 17.0 mmol) and Cs2CO3 (15.8 g, 48.5 mmol) in 1-methyl-2-pyrrolidinone (NMP, 11 mL) at 85° C. was added crude (S)-2,4-dichloro-1-(1-chloroethyl)benzene (3.2 g, 15.4 mmol) dropwise. The reaction mixture was heated for 10 min, and cooled to room temperature. The mixture was diluted with ethyl acetate (20 mL), washed with deionized water and brine, dried (Na2SO4), and concentrated in vacuo. The resulting crude material was purified by flash chromatography (SiO2, 5% ethyl acetate in hexanes) to afford (R)-6-bromo-1-(1-(2,4-dichlorophenyl)ethyl)-1H-indazole (2.2 g, 6.0 mmol, 39%).

reactant | 6-bromoindazole | 17.0 mmol, 3.4 g | BrC1=CC=C2C=NNC2=C1 | C7H5BrN2
reactant | Cs2CO3 | 48.5 mmol, 15.8 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | (S)-2,4-dichloro-1-(1-chloroethyl)benzene | 15.4 mmol, 3.2 g | ClC1=C(C=CC(=C1)Cl)[C@H](C)Cl | C8H7Cl3
solvent | 1-methyl-2-pyrrolidinone | 11 mL | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | (R)-6-bromo-1-(1-(2,4-dichlorophenyl)ethyl)-1H-indazole | 6.0 mmol, 2.2 g, 39% | BrC1=CC=C2C=NN(C2=C1)[C@H](C)C1=C(C=C(C=C1)Cl)Cl | C15H11BrCl2N2
